US05776983
A suspension of 4-bromomethylbenzoic acid (25.26 g, 0.12 mol) and KCN (20 g, 0.31 mol) in 5:7 H2O/EtOH (60 mL) was heated to 75°-80° C. for four hours. The cooled reaction was partially concentrated, H2O added, and extracted 1× with EtOAc. After acidification of the aqueous layer, the resulting precipitate was filtered and washed well with H2O to yield 13.6 g; 4 EtOAc extractions of the filtrate yielded an additional 2.7 g. Recrystallization of the combined solids from H2O/EtOH using activated charcoal and filtering through Celite afforded 15.20 g of 4-cyanomethylbenzoic acid.

reactant | 4-bromomethylbenzoic acid | 0.12 mol, 25.26 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | KCN | 0.31 mol, 20 g | [C-]#N.[K+]
solvent | H2O EtOH | 60 mL | O.CCO
product | 4-cyanomethylbenzoic acid | 15.20 g | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
